US03975432
The resulting solution of 6-methoxy-2-naphthylmagnesium bromide in 50 ml. of benzene under nitrogen is added 3.14 g. of anhydrous zinc chloride. The temperature of the mixture is maintained at a temperature of from 25°-30°C for 1 hour, yielding a solution of di-(6-methoxy-2-naphthyl)zinc.

reactant | 6-methoxy-2-naphthylmagnesium bromide | COC=1C=C2C=CC(=CC2=CC1)[Mg]Br
reactant | zinc chloride | [Cl-].[Zn+2].[Cl-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | di-(6-methoxy-2-naphthyl)zinc | COC=1C=C2C=CC(=CC2=CC1)[Zn]C1=CC2=CC=C(C=C2C=C1)OC | InChI=1S/2C11H9O.Zn/c2*1-12-11-7-6-9-4-2-3-5-10(9)8-11;/h2*3-8H,1H3;
